US05506267
4-(6,7-bis(palmitoyloxy)-4- thiaheptanoyl)amino- 2-fluorobenzoylglutamic acid di-t-butyl ester
To a solution of 4-amino-2-fiuorobenzoylglutamic acid di-t-butyl ester (181 mg) in pyridine (2.3 ml), phosphorus trichloride (0.020 ml) was added, followed by stirring at room temperature for 2 hours. To this mixture, 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid as obtained in Reference Example 24 (150 mg) was added, followed by stirring at room temperature for 24 hours. The reaction mixture was diluted with water, extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to yield the title compound (205 mg, yield 87%) as a wax-like substance.

reactant | 4-amino-2-fiuorobenzoylglutamic acid di-t-butyl ester | 181 mg | C(C)(C)(C)OC([C@@H](NC(C1=C(C=C(C=C1)N)F)=O)CCC(=O)OC(C)(C)C)=O | C20H29FN2O5
reactant | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C38H72O6S
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
solvent | phosphorus trichloride | 0.020 ml | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | 4-(6,7-bis(palmitoyloxy)-4- thiaheptanoyl)amino- 2-fluorobenzoylglutamic acid di-t-butyl ester | 205 mg, yield 87% | C(C)(C)(C)OC([C@@H](NC(C1=C(C=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)F)=O)CCC(=O)OC(C)(C)C)=O | C58H99FN2O10S
